US07888349B2
Hydrogen chloride (20 mL of a 4 N solution in 1,4-dioxane) and methanol (20 mL) were added to tert-butyl 6-amino-3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate (4.45 g, 9.98 mmol, prepared by the methods described in Example 368 Parts A through I), and the reaction was stirred at ambient temperature overnight. A precipitate was present and was isolated by filtration and washed with cold methanol. The solid was then recrystallized from methanol, isolated by filtration, washed with diethyl ether, and dried overnight under vacuum at 65° C. to provide 3.89 g of 3-benzyloxy-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride as a white solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
reactant | tert-butyl 6-amino-3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | NC1=NC2=CC(=CC=C2C2=C1N=C1N2CCN(C1)C(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C25H27N5O3
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-benzyloxy-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride | 3.89 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCNC1 | InChI=1S/C20H19N5O.ClH/c21-20-18-19(25-9-8-22-11-17(25)24-18)15-7-6-14(10-16(15)23-20)26-12-13-4-2-1-3-5-13;/h1-7,10,22H,8-9,11-12H2,(H2,21,23);1H
